US06759420B1
3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-N-{(S)-cyclohexyl-[(piperidin-4-ylmethyl)-carbamoyl]-methyl}-propionamide acetic acid salt, less polar diastereomer
To (S)-[3-(4-carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-cyclohexyl-acetic acid (50 mg, 0.12 mmol, less polar diastereomer, example 1 h) and 4-aminoethyl-piperidine-1-carboxylic acid tert-butyl ester (26 mg, 0.12 mmol) in dimethylformamide (5 ml) were added HATU (50 mg, 0.13 mmol) and collidine (16 mg, 0.13 mmol) at 0° C. The mixture was stirred for 1 hour and then allowed to warm to room temperature. The mixture was evaporated and treated with 2 ml of trifluoroacetic acid (containing 10% water) for 2 hours. After evaporation, the residue was purified by chromatography on Sephadex LH20 employing n-butanol (17): glacial acetic acid (1): water (2) as eluent. Pure fractions were combined. The solvent was evaporated, the residue was taken up in water, and the aqueous solution was lyophilized. Yield: 45 mg (59%), MS m/z: 510.5 (M+H)+, 255.8 (M+2H)2+.

reactant | (S)-[3-(4-carbamimidoyl-phenyl)-2-cyclohexyl-propionylamino]-cyclohexyl-acetic acid | C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(=O)O)C1CCCCC1)C1CCCCC1 | C24H35N3O3
reactant | 4-aminoethyl-piperidine-1-carboxylic acid tert-butyl ester | 0.12 mmol, 26 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | HATU | 0.13 mmol, 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | collidine | 0.13 mmol, 16 mg | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-(4-Carbamimidoyl-phenyl)-2-cyclohexyl-N-{(S)-cyclohexyl-[(piperidin-4-ylmethyl)-carbamoyl]-methyl}-propionamide acetic acid salt | C(C)(=O)O.C(N)(=N)C1=CC=C(C=C1)CC(C(=O)N[C@H](C(NCC1CCNCC1)=O)C1CCCCC1)C1CCCCC1 | InChI=1S/C30H47N5O2.C2H4O2/c31-28(32)25-13-11-21(12-14-25)19-26(23-7-3-1-4-8-23)29(36)35-27(24-9-5-2-6-10-24)30(37)34-20-22-15-17-33-18-16-22;1-2(3)4/h11-14,22-24,26-27,33H,1-10,15-20H2,(H3,31,32)(H,34,37)(H,35,36);1H3,(H,3,4)/t26?,27-;/m0./s1
